US08252797B2
To a stirred solution of 5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidine-3-carboxylic acid (1.0 g, 3.66 mmol) in DCM (10 ml) was added thionyl chloride (0.9 ml, 12.44 mmol) and DMF (2 drops). The reaction mixture was stirred for 1 hr at room temperature and the solvents were removed. The residue was taken in toluene (10 ml) and again concentrated to obtain brown oil. The resulting oil was taken in acetonitrile (10 ml) and trimethylsilyldiazomethane (9.15 ml, 18.3 mmol). It was stirred at room temperature for 1 hr. The reaction mixture was cooled to 0° C. and 33% HBr in acetic acid (4.17 ml, 23.79 mmol) was added drop wise and stirred for 1 hr at room temperature. To the reaction mixture sodium bicarbonate (20 ml) was added and extracted with ethyl acetate (3×15 ml). The combined organic layer was washed with saturated brine solution (35 ml). The organic layer was dried over Na2SO4, evaporated to obtain crude product. The crude product was purified by column chromatography using silicagel (100-200) and 12 to 16% ethyl acetate in hexane as an eluent to obtain 4-(2-bromo-acetyl)-1-(3-trifluoromethyl-phenyl)-pyrrolidin-2-one (0.9 g, 72%) as a brown mass.

reactant | 5-oxo-1-(3-trifluoromethyl-phenyl)-pyrrolidine-3-carboxylic acid | 3.66 mmol, 1.0 g | O=C1CC(CN1C1=CC(=CC=C1)C(F)(F)F)C(=O)O | C12H10F3NO3
reactant | thionyl chloride | 12.44 mmol, 0.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | trimethylsilyldiazomethane | 18.3 mmol, 9.15 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | HBr | Br | BrH
reactant | acetic acid | 23.79 mmol, 4.17 ml | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-(2-bromo-acetyl)-1-(3-trifluoromethyl-phenyl)-pyrrolidin-2-one | 0.9 g, 72% | BrCC(=O)C1CC(N(C1)C1=CC(=CC=C1)C(F)(F)F)=O | C13H11BrF3NO2
